US08309721B2
1.6 ml of 2M sodium hydroxide are added to a solution of 0.33 g of 9-(5-cyanopyridin-2-yl)-9H-carbazole-4-carboxylic acid methyl ester, obtained according to the preceding stage, in 30 ml of methanol, and then the mixture is heated at 60° C. for 2 hours. After a return to ambient temperature, the reaction mixture is concentrated under reduced pressure, and then 20 ml of water and a 1M aqueous solution of HCl are added in order to bring the pH to around 6. The aqueous phase is extracted with 3×100 ml of ethyl acetate, and the organic phases are then combined, dried over magnesium sulphate and concentrated under reduced pressure. 0.24 g of 9-(5-carbamoylpyridin-2-yl)-9H-carbazole-4-carboxylic acid is thus obtained in the form of a rubbery residue, the characteristics of which are the following:

reactant | sodium hydroxide | 2M, 1.6 ml | [OH-].[Na+]
reactant | 9-(5-cyanopyridin-2-yl)-9H-carbazole-4-carboxylic acid methyl ester | 0.33 g | COC(=O)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=NC=C(C=C1)C#N | C20H13N3O2
solvent | methanol | 30 ml | CO | CH4O
product | 9-(5-carbamoylpyridin-2-yl)-9H-carbazole-4-carboxylic acid | 0.24 g | C(N)(=O)C=1C=CC(=NC1)N1C2=CC=CC=C2C=2C(=CC=CC12)C(=O)O | C19H13N3O3
